US05202319
3-Amino-7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine maleate
Zinc dust (9 g) was added to a solution of 7,8-dimethoxy-3-nitroso-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine (10 g) in 150 ml of 2:1 acetic acid/water. After stirring at ambient temperate for three hours, the reaction mixture was filtered, stirred with ice and basified with ammonium hydroxide. The oil which had separated was extracted with dichloromethane. The organic extract was washed with water and saturated sodium chloride solution, and thereafter dried (anhydrous magnesium sulfate), filtered and concentrated to 10 g brown oil. This was eluted through silica with ethyl acetate via high performance liquid chromatography to yield 8.6 g white solid, mp 98°-100°. This solid was again eluted through silica with 5% methanol in dichloromethane via high performance liquid chromatography to yield 6 g white solid, mp 107°-109°. A three gram portion was converted to the maleate salt in 10% methanol/ether to yield 3.3 g white solid, mp 132°-134°.

reactant | 7,8-dimethoxy-3-nitroso-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine | 10 g | COC1=CC2=C(C(CN(CC2)N=O)OC2=CC=CC=C2)C=C1OC | C18H20N2O4
reactant | acetic acid water | 150 ml | C(C)(=O)O.O
catalyst | Zinc | 9 g | [Zn] | Zn
product | 3-Amino-7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine maleate | 8.6 g | C(\C=C/C(=O)O)(=O)O.NN1CCC2=C(C(C1)OC1=CC=CC=C1)C=C(C(=C2)OC)OC | InChI=1S/C18H22N2O3.C4H4O4/c1-21-16-10-13-8-9-20(19)12-18(15(13)11-17(16)22-2)23-14-6-4-3-5-7-14;5-3(6)1-2-4(7)8/h3-7,10-11,18H,8-9,12,19H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
